US09168776B2
Synthesis of dibenzyl hexane-1,6-diyldicarbamate
Into a 16 oz jar equipped with magnetic stir was charged 120 g benzyl alcohol (MW=108 g/mol, 1.11 mmol) and 10 drops of Fascat 4202 catalyst. The jar was placed in an about 130° C. oil bath. Next, 93.3 g HDI (MW=168 g/mol, 0.56 mmol) was added. An exotherm was observed. IR was checked after 1 hour of reaction and showed no isocyanate peak between 2200 and 2400 cm−1, indicating that the reaction was complete. The reaction contents were poured into a tin pan to cool and solidify. DSC was employed to measure thermal properties of the materials. DHDC is a white powdered material having the following structure:

reactant | benzyl alcohol | 1.11 mmol, 120 g | C(C1=CC=CC=C1)O | C7H8O
reactant | isocyanate | [N-]=C=O
reactant | tin | [Sn] | Sn
product | dibenzyl hexane-1,6-diyldicarbamate | C(CCCCCNC(OCC1=CC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O | C22H28N2O4
